US07435815B2
N-Benzyl-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid with benzyl-ethyl-amine

reactant | [(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid | COC1=CC=C(C=N1)N(S(=O)(=O)C1=NC=CC=C1C)CC(=O)O | C14H15N3O5S
reactant | benzyl-ethyl-amine | C(C1=CC=CC=C1)NCC | C9H13N
product | N-Benzyl-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C1=NC=CC=C1C)C=1C=NC(=CC1)OC)=O)CC | C23H26N4O4S
